US04351977
Bicyclo[10.3.0]pentadeca-1,12-diene(intermediate compound not isolated)
18.2 g (0.05 mole) of 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone, 33.0 g (0.30 mole) of sodium tert-pentoxide and 100 ml of toluene were subjected to the treatments described sub letter (a). After addition of 15 ml of DMSO, heating at 110° for 4 hours and final treatments as indicated hereinabove, there were isolated 7.75 g (76% yield) of the desired compound.

reactant | 2-(3-phenylsulfonyl-prop-1-yl)-cyclododecanone | 0.05 mole, 18.2 g | C1(=CC=CC=C1)S(=O)(=O)CCCC1C(CCCCCCCCCC1)=O | C21H32O3S
reactant | sodium tert-pentoxide | 0.30 mole, 33.0 g | CCC(C)(C)[O-].[Na+]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | DMSO | 15 ml | CS(=O)C | C2H6OS
product | Bicyclo[10.3.0]pentadeca-1,12-diene | 7.75 g, 76% yield | C12=CCCCCCCCCCC2=CCC1 | C15H24
